US08623869B2
Step 5: 5-[2-(4-Isopropylsulfonylphenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-3-phenyl-isoxazole
2M Na2CO3 (136 μL, 0.272 mmol) was added to a stirred solution of 5-[2-(4-isopropylsulfonylphenyl)-5-(p-tolylsulfonyl)pyrrolo[2,3-b]pyrazin-7-yl]-3-phenyl-isoxazole (40.7 mg, 0.06798 mmol) in THF (4.6 mL) and the reaction stirred at ambient temperature for 64 hours. The reaction mixture was partitioned between EtOAc/brine and the layers separated. The aqueous layer was extracted with EtOAc (×2) and the combined organic extracts dried (MgSO4), filtered and concentrated in vacuo. The residue was triturated from MeCN and the precipitate isolated by filtration to give the title compound as a yellow solid (20.3 mg, 67% Yield). 1H NMR (400.0 MHz, DMSO) δ 1.16 (s, 6H), 3.52 (t, 1H), 7.52-7.61 (m, 4H), 8.02-8.05 (m, 4H), 8.63 (d, 2H), 8.69 (s, 1H), 9.18 (s, 1H) and 13.00 (br s, 1H) ppm; MS (ES+) 445.1.

reactant | Na2CO3 | 0.272 mmol, 2M, 136 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-[2-(4-isopropylsulfonylphenyl)-5-(p-tolylsulfonyl)pyrrolo[2,3-b]pyrazin-7-yl]-3-phenyl-isoxazole | 0.06798 mmol, 40.7 mg | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C=1N=C2C(=NC1)N(C=C2C2=CC(=NO2)C2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C31H26N4O5S2
solvent | THF | 4.6 mL | C1CCOC1 | C4H8O
product | 5-[2-(4-Isopropylsulfonylphenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-3-phenyl-isoxazole | 20.3 mg, 67% Yield | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C=1N=C2C(=NC1)NC=C2C2=CC(=NO2)C2=CC=CC=C2 | C24H20N4O3S
